US07524840B2
(2-amino-4,5-difluorophenyl)-(2-chlorophenyl)-methanone (Xmm) was prepared by reacting 2-chlorobenzaldehyde with 0.30 moles of 3,4-difluoro aniline in a manner analogous to Example 1. MH+/Z=268.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3,4-difluoro aniline | 0.30 moles | FC=1C=C(N)C=CC1F | C6H5F2N
product | (2-amino-4,5-difluorophenyl)-(2-chlorophenyl)-methanone | NC1=C(C=C(C(=C1)F)F)C(=O)C1=C(C=CC=C1)Cl | C13H8ClF2NO
